US04197296
5α-Androst-2-ene-11,17-dione
A solution of 20-oximino-5α-pregna-2,16-diene-11-one (60 g) in anhydrous pyridine (250 ml) was treated with 225 ml of a solution prepared from phosphorus oxychloride (55 ml) in anhydrous pyridine (250 ml) whilst maintaining the reaction temperature at `5° during addition of the reagent. The reaction mixture was then added to a solution of concentrated HCl (350 ml) in water (3 l). This mixture was stirred for 60 hours before collecting the precipitate by filtration. The precipitate was washed with water, dissolved in hot industrial methylated spirits and treated with 2 N HCl (50 ml) at room temperature. After one hour, the reaction mixture was diluted with water and the precipitate obtained was collected by filtration, washed with water and dried. (38.4 g). Crystallisation from methanol afforded the title compound, m.p. 188°-192°, [α]D +207°.

reactant | 20-oximino-5α-pregna-2,16-diene-11-one | 60 g | N(O)=C(C)C1=CC[C@H]2[C@@H]3CC[C@H]4CC=CC[C@]4(C)[C@H]3C(C[C@]12C)=O | C21H29NO2
reactant | phosphorus oxychloride | 55 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 350 ml | Cl | ClH
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 3 l | O | H2O
product | 5α-Androst-2-ene-11,17-dione | C[C@@]12C(CC[C@H]1[C@@H]1CC[C@H]3CC=CC[C@]3(C)[C@H]1C(C2)=O)=O | C19H26O2
